US07858632B2
A mixture of (2-Isopropyl-4-methoxy-5-thiazol-4-yl-phenoxy)-acetonitrile (0.27 g, 0.94 mmol) and Brederick's reagent (0.35 g, 2.01 mmol) was heated at 100° C. for 2 hrs. Excess Brederick's reagent was removed under reduced pressure. The residue was dissolved in anhydrous EtOH (10 ml) and aniline HCl (0.38 g, 2.93 mmol) was added. The reaction mixture was heated at 80° C. for 18 hrs and partitioned between EtOAc and water. The combined organic extracts were dried over Na2SO4, filtered and concentrated. Guanidine carbonate (0.27 g,1.49 mmol) and NMP (10 ml) were added and heated to 120° C. for 10 hrs. The reaction mixture was poured into water and extracted into EtOAc. The combined organic extracts were dried over Na2SO4, filtered and concentrated. Flash chromatography on silica (3% MeOH in methylene chloride with 0.1% NH4OH) gave 5-(2-Isopropyl-4-methoxy-5-thiazol-4-yl-phenoxy)-pyrimidine-2,4-diamine (0.15 g, 68%) as a solid. (M+H)=358.

reactant | (2-Isopropyl-4-methoxy-5-thiazol-4-yl-phenoxy)-acetonitrile | 0.94 mmol, 0.27 g | C(C)(C)C1=C(OCC#N)C=C(C(=C1)OC)C=1N=CSC1 | C15H16N2O2S
reactant | Brederick's reagent | 2.01 mmol, 0.35 g | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | aniline HCl | 2.93 mmol, 0.38 g | Cl.NC1=CC=CC=C1
reactant | Guanidine carbonate | 1.49 mmol, 0.27 g | C(O)(O)=O.NC(=N)N
solvent | water | O | H2O
solvent | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 5-(2-Isopropyl-4-methoxy-5-thiazol-4-yl-phenoxy)-pyrimidine-2,4-diamine | 0.15 g, 68% | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)C=1N=CSC1 | C17H19N5O2S
